US09102682B2
Intermediate I was hydrogenated using 10% Pd/C under hydrogen at 50 psi in a pressure vessel to afford tert-butyl N-[(2S)-2-amino-3-methyl-pentyl]carbamate which was reacted with 5-bromo-2,4-dichloro-pyrimidine using analogous reaction conditions as described for tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate to afford tert-butyl N-[(2S)-2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-pentyl]carbamate. 1H NMR (600 MHz, CHLOROFORM-d) δ ppm 0.88-0.95 (m, 6H) 1.11-1.20 (m, 1H) 1.34 (s, 9H) 1.44-1.54 (m, 1H) 1.64-1.72 (m, 1H) 3.17-3.27 (m, 1H) 3.33-3.43 (m, 1H) 4.11-4.21 (m, 1H) 4.81 (s, 1H) 5.92 (d, J=8.20 Hz, 1H) 8.05 (s, 1H). LCMS (ESI) 407.

reactant | 5-bromo-2,4-dichloro-pyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)C(C)C | C14H22BrClN4O2
product | tert-butyl N-[(2S)-2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-pentyl]carbamate | BrC=1C(=NC(=NC1)Cl)N[C@H](CNC(OC(C)(C)C)=O)C(CC)C | C15H24BrClN4O2
